US07498329B2
2-(2,5-Dimethylpyrrol-1-yl)-5-oxiranylpyridine
Water (1.08 Kg) was added dropwise to a suspension of sodium borohydride (0.17 Kg, 4.36 mol) in 1,4-dioxane (6.49 L) at 16° C. and the resulting solution stirred at room temperature. A solution of 2-chloro-1-[6-(2,5-dimethylpyrrol-1-yl)pyridin-3-yl]ethanone (1.08 Kg, 4.35 mol) in tetrahydrofuran (2.16 L) was added over 1 hour and the resulting solution stirred for 45 minutes at room temperature. When all the 2-chloro-1-[6-(2,5-dimethylpyrrol-1-yl)pyridin-3-yl]ethanone was consumed the reaction mixture was cooled to 19° C. and treated with concentrated HCl (36% w/w) (1.08 L) over 40 minutes. The mixture was cooled to 11° C. and NaOH (32% w/w) (1.64 L) was added over 45 minutes maintaining the temperature below 25° C. The mixture was then allowed to granulate at room temperature overnight. When all the chloroalcohol intermediate was consumed, DCM (5.0 L) and water (5.0 L) were added and the mixture was stirred before allowing the phases to separate. The aqueous phase was extracted with DCM (2.50 L) and the combined organic phases were washed with water (2×1.0 L) and concentrated in vacuo. Yield 98% (0.92 Kg) δH (CDCl3, 300 MHz) 2.10 (6H, s), 2.90 (1H, dd), 3.25 (1H, dd), 4.00 (1H, dd), 5.90 (2H, s), 7.20 (1H, d), 7.70 (1H, dd), 8.40 (1H, d) ppm. MS m/z 215 (MH+).

reactant | Water | 1.08 Kg | O | H2O
reactant | sodium borohydride | 4.36 mol, 0.17 Kg | [BH4-].[Na+]
reactant | 2-chloro-1-[6-(2,5-dimethylpyrrol-1-yl)pyridin-3-yl]ethanone | 4.35 mol, 1.08 Kg | ClCC(=O)C=1C=NC(=CC1)N1C(=CC=C1C)C | C13H13ClN2O
solvent | 1,4-dioxane | 6.49 L | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 2.16 L | O1CCCC1 | C4H8O
product | 2-(2,5-Dimethylpyrrol-1-yl)-5-oxiranylpyridine | Yield 98% | CC=1N(C(=CC1)C)C1=NC=C(C=C1)C1OC1 | C13H14N2O
